US09376422B2
Step 5: Synthesis of tert-butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl](ethyl)amino}piperidine-1-carboxylate
To a solution of tert-butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl]amino}piperidine-1-carboxylate (125 mg, 0.33 mmol) in 1,2-dichloroethane (1.6 ml) at room temperature under nitrogen was added acetaldehyde (37 μl, 0.65 mmol) followed by acetic acid (0.11 ml, 1.96 mmol). This solution was stirred for 5 minutes before adding sodium triacetoxyborohydride (0.21 g, 0.98 mmol) at room temperature. The reaction was monitored by LCMS and after 4.5 h a further acetaldehyde (73 μl, 1.31 mmol) and sodium triacetoxyborohydride (0.28 g, 1.31 mmol) were added to the reaction mixture. The mixture was stirred for a further 18 hours after which deionized water (10 ml) was added and the mixture was neutralised with solid NaHCO3. The phases were separated and the aqueous layer was extracted with EtOAc (2×10 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (10 g silica, Isolute cartridge, gradient of eluents; 99:1 Heptane:EtOAc to 8:2 Heptane:EtOAc) to give 131 mg (98%) of the title compound as a thick colourless oil. LC-MS 98%, m/z=433.5/435.1 (M+Na), 1H NMR (500 MHz, Chloroform-d) δ ppm 7.57 (1H, d, J=2.21 Hz), 7.22 (1H, d, J=2.05 Hz), 3.97-4.14 (2H, m), 3.90 (3H, s), 3.04 (2H, q, J=6.99 Hz), 2.81-2.91 (1H, m), 2.70 (2H, br. t, J=11.50, 11.50 Hz), 2.45 (3H, s), 1.69-1.80 (2H, m), 1.47-1.56 (2H, m), 1.46 (9H, s), 0.87 (3H, t, J=7.09 Hz).

reactant | tert-butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl]amino}piperidine-1-carboxylate | 0.33 mmol, 125 mg | ClC=1C=C(C(=C(C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C)C(=O)OC | C19H27ClN2O4
reactant | acetaldehyde | 0.65 mmol, 37 μl | C(C)=O | C2H4O
reactant | acetic acid | 1.96 mmol, 0.11 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.98 mmol, 0.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 1.31 mmol, 73 μl | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 1.31 mmol, 0.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 1.6 ml | ClCCCl | C2H4Cl2
solvent | water | 10 ml | O | H2O
product | tert-butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl](ethyl)amino}piperidine-1-carboxylate | 131 mg, 98% | ClC=1C=C(C(=C(C1)N(C1CCN(CC1)C(=O)OC(C)(C)C)CC)C)C(=O)OC | C21H31ClN2O4
